US05698584
Step 2: 3-(Diethyl amino)-5,5-dimethyl-4-(4-(methylsulfonyl)phenyl)-5H-furan-2-one
Sodium hydride, 60% dispersion (0.478 g, 11.96 mmol) was washed in hexane and suspended in DMF (5 mL). This suspension was added to a 0° C. solution of 2-(diethyl amino)acetic acid 2-methyl-1-(4-(methylsulfonyl)phenyl)propan-1-one-2-yl ester (1.70 g, 4.78 mmol) in DMF (20 mL). The resulting mixture was warmed to RT for 15 minutes. The mixture was diluted with ethyl acetate and quenched with water. The organic layer was washed with brine, dried over MgSO4 and concentrated to dryness. The residue was purified by swishing in ether/hexanes to give 500 mg of crystalline solid on filtration.

reactant | 2-(diethyl amino)acetic acid 2-methyl-1-(4-(methylsulfonyl)phenyl)propan-1-one-2-yl ester | 4.78 mmol, 1.70 g | CC(C(=O)C1=CC=C(C=C1)S(=O)(=O)C)(C)OC(CN(CC)CC)=O | C17H25NO5S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Diethyl amino)-5,5-dimethyl-4-(4-(methylsulfonyl)phenyl)-5H-furan-2-one | 500 mg | C(C)N(C=1C(OC(C1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O)CC | C17H23NO4S
